US05008280
70-75% pure m-chloroperbenzoic acid (4.3 g) is added in the course of approximately 10 minutes to 2-imino-3-(2-propylthioethyl)-6-trifluoromethoxybenzothiazoline (5.87 g) dissolved in absolute ethanol (80 cc) cooled to -35° C. The reaction is continued for 10 minutes at the same temperature. The reaction medium is then added to ethyl ether (300 cc) and treated with 4.2N ethereal hydrogen chloride (4.2 cc). The precipitate formed is filtered off, then taken up in distilled water (50 cc) and neutralized with 1N sodium hydroxide. After extraction with ethyl acetate, drying over magnesium sulphate and concentration to dryness under reduced pressure (20 mm Hg; 2.7 kPa), the crude product is purified by chromatography on a silica column, with ethyl acetate and then a mixture of ethyl acetate and methanol (90:10 by volume) as eluents. After conversion to hydrochlorides, 2-imino-3-(2-propylsulphonylethyl)-6-trifluoromethoxybenzothiazoline hydrochloride (0.33 g), subliming at about 200° C., and (RS)-2-imino-3-(2-propylsulphinylethyl)-6-trifluoromethoxybenzothiazoline hydrochloride (2.63 g), m.p. 125° C., are obtained.

reactant | m-chloroperbenzoic acid | 4.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-imino-3-(2-propylthioethyl)-6-trifluoromethoxybenzothiazoline | 5.87 g | N=C1SC2=C(N1CCSCCC)C=CC(=C2)OC(F)(F)F | C13H15F3N2OS2
reactant | ethyl ether | 300 cc | C(C)OCC | C4H10O
reactant | hydrogen chloride | 4.2N, 4.2 cc | Cl | ClH
solvent | ethanol | 80 cc | C(C)O | C2H6O
product | (RS)-2-imino-3-(2-propylsulphinylethyl)-6-trifluoromethoxybenzothiazoline hydrochloride | 2.63 g | Cl.N=C1SC2=C(N1CCS(=O)CCC)C=CC(=C2)OC(F)(F)F | InChI=1S/C13H15F3N2O2S2.ClH/c1-2-6-22(19)7-5-18-10-4-3-9(20-13(14,15)16)8-11(10)21-12(18)17;/h3-4,8,17H,2,5-7H2,1H3;1H
